US04999356
To a stirred solution, under nitrogen, 17.0 g of 1-[(phenylhydrazono)(2,4-difluorophenyl)methyl]-4-methylpiperazine in 200 ml of tetrahydrofuran was added dropwise a solution of 7.1 g of potassium t-butoxide in 75 ml of tetrahydrofuran. The reaction mixture was stirred at ambient temperature for 2 hours, then concentrated, diluted with water and extracted with ethyl acetate. The extract was washed with water, dried over anhydrous magnesium sulfate and concentrated to yield 6-fluoro-1-phenyl-3-(4-methyl-1-piperazinyl)-1H-indazole as an oil. The oil was dissolved in ethanol-diethyl ether and treated with ethereal hydrogen chloride to precipitate the hydrochloride salt. Recrystallization from methanol yielded 9.0 g, (45%) of 6-fluoro-1-phenyl-3-(4-methyl-1-piperazinyl)-1H-indazole hydrochloride, m.p. 298°-300°. (dec.).

reactant | 1-[(phenylhydrazono)(2,4-difluorophenyl)methyl]-4-methylpiperazine | 17.0 g | C1(=CC=CC=C1)NN=C(N1CCN(CC1)C)C1=C(C=C(C=C1)F)F | C18H20F2N4
reactant | potassium t-butoxide | 7.1 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 6-fluoro-1-phenyl-3-(4-methyl-1-piperazinyl)-1H-indazole | FC1=CC=C2C(=NN(C2=C1)C1=CC=CC=C1)N1CCN(CC1)C | C18H19FN4
